datasets/RMG-dataset.csv
rxn,Ea
[H:12].[O:0]=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4](=[O:5])[C:6]([H:10])=[C:7]1[H:11]>>[H:8][H:12].[O:0]=[C:1]1[C:2]=[C:3]([H:9])[C:4](=[O:5])[C:6]([H:10])=[C:7]1[H:11],33.8904
[C:16]([S:17][H:20])([H:18])[H:19].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8]>>[H:9][C:16]([S:17][H:20])([H:18])[H:19].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:8],17.1544
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[H:14])[H:6],1.6736
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([C:20]([H:27])([H:28])[H:29])([C:21]([H:30])([H:31])[H:32])[H:26])[H:25])([H:22])([H:23])[H:24]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][C:18]([C:17]([H:22])([H:23])[H:24])([C:19]([C:20]([H:27])([H:28])[H:29])([C:21]([H:30])([H:31])[H:32])[H:26])[H:25],51.4632
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([C:19]([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])([H:27])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:19]([C:18]([H:27])([H:28])[H:29])([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])[H:11])[H:10])([H:8])[H:9],32.6352
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([H:11])[H:12])[H:7]>>[C:0](#[C:1][C:2]1([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[C:5]1([C:6]([H:14])[H:15])[H:13])[H:7],64.8938
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([C:28](=[C:29]([H:33])[H:34])[H:32])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:27]([C:28](=[C:29]([H:33])[H:34])[H:32])([H:30])[H:31])[H:15])([H:13])[H:14],54.2246
[O:0]=[S:1](=[O:2])[O:3][H:4]>>[H:4].[O:0]=[S:1](=[O:2])=[O:3],229.7016
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][H:18]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][O:17][H:18],2.1116648
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8].[H:6][O:20],23.028736
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([O:7])([H:8])([H:9])[H:10]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[O:7][C:6]([H:8])([H:9])[H:10],52.3
[C:0]([C:1](=[O:2])[O:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([O:2][H:11])=[O:3])([H:7])([H:8])[H:9].[C:4](=[C:5]([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10],187.0248
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])=[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:11])([H:9])[H:10],170.456
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([S:7][H:11])([H:8])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:11])[H:3].[C:6]([S:7])([H:8])([H:9])[H:10],17.1544
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9]([C:8]([H:16])([H:17])[H:18])([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19],62.3416
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8](=[O:9])[H:10]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:8](=[O:9])[H:10],159.996
[C:0](=[C:1]([C:2]#[C:3][H:6])[H:5])[H:4].[H:7]>>[C:0](#[C:1][C:2]#[C:3][H:6])[H:4].[H:5][H:7],0.0
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:11]([H:12])([H:13])[H:14]>>[C:0]([C:1]([O:2][C:3]=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:11]([H:12])([H:13])[H:14],22.932504
